US09120761B2
(c) tert-Butyl 4-(4-amino-3-methylphenyl)piperidine-1-carboxylate (I53)
A suspension of tert-butyl 4-(4-(((benzyloxy)carbonyl)amino)-3-methylphenyl)-5,6-dihydropyridine-1(2H)-carboxylate (I52) (798 mg, 2.49 mmol) and 10% Pd/C (250 mg) in MeOH (50 mL) was stirred under hydrogen (1 atm) for 16 hours at room temperature. The resulting mixture was filtered through celite, washing with MeOH, then the volatiles were removed by evaporation under reduced pressure to give the title compound (I53) (550 mg, 76%) as a purple/brown liquid; 1H NMR (400 MHz, CDCl3) δ 6.95 (d, J=6.7 Hz, 3H), 4.22 (s, 2H), 2.77 (s, 2H), 2.54 (s, 1H), 2.29 (s, 3H), 1.77 (d, J=12.7 Hz, 2H), 1.56 (dd, J=12.6, 3.7 Hz, 9H), 1.47 (s, 9H). LCMS Method C rt: 5.09 min; m/z 235.1 [M-tBu+2]+, 191.2 [M-Boc+2]+.

reactant | tert-butyl 4-(4-(((benzyloxy)carbonyl)amino)-3-methylphenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 2.49 mmol, 798 mg | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(C=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C25H30N2O4
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | tert-Butyl 4-(4-amino-3-methylphenyl)piperidine-1-carboxylate | 550 mg, 76% | NC1=C(C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C17H26N2O2
